US08648068B2
66.2 4-[4-Chloro-2-((S)-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
4-{4-Chloro-2-[(S)-1-(2,2,2-trifluoro-acetyl)-piperidin-3-yloxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (150 mg) and ammonia in methanol (7M; 5 ml) were combined and heated at 100° C. in sealed tube. The reaction heated under these conditions for 48 h. The residue was purified by chromatography tho give the inteded product.

reactant | 4-{4-Chloro-2-[(S)-1-(2,2,2-trifluoro-acetyl)-piperidin-3-yloxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 150 mg | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)Cl)O[C@@H]2CN(CCC2)C(C(F)(F)F)=O)S1)C | C22H20ClF3N4O4S
reactant | ammonia | N | H3N
solvent | methanol | 7M, 5 ml | CO | CH4O
product | 4-[4-Chloro-2-((S)-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | ClC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@@H]2CNCCC2 | C19H20ClN5O2S
